US04529745
Preparation of Ethoxylated Castor Oil-Ditridecyl Fumarate Surfactants
This example illustrates the synthesis of uncapped surfactants from ethoxylated castor oil and ditridecyl fumarate utilizing different levels of initiator.

reactant | ethoxylated castor oil | C(C(CCl)OC(=O)N)Cl | C4H7Cl2NO2
reactant | ditridecyl fumarate | C(\C=C\C(=O)OCCCCCCCCCCCCC)(=O)OCCCCCCCCCCCCC | C30H56O4
product | Ethoxylated Castor Oil Ditridecyl Fumarate | C(C(CCl)OC(=O)N)Cl.C(\C=C\C(=O)OCCCCCCCCCCCCC)(=O)OCCCCCCCCCCCCC | InChI=1S/C30H56O4.C4H7Cl2NO2/c1-3-5-7-9-11-13-15-17-19-21-23-27-33-29(31)25-26-30(32)34-28-24-22-20-18-16-14-12-10-8-6-4-2;5-1-3(2-6)9-4(7)8/h25-26H,3-24,27-28H2,1-2H3;3H,1-2H2,(H2,7,8)/b26-25+;
